US08975265B2
A mixture of {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (100 mg, 0.19 mmol) and tetrakis(triphenylphosphine)-palladium(0) (2.2 mg, 0.2 mmol, 1.0 mol %) in DME (1.5 mL) under an atmosphere of argon was stirred at room temperature for 10 min. To the resulting mixture was added K2CO3 (26.7 mg, 0.19 mmol, 1.0 equiv) and water (0.5 mL), followed by 2,4,6-trivinyl-cyclotriboroxane pyridine complex (46.4 mg, 0.19 mmol, 1 equiv). The resulting mixture was heated at the reflux temperature for 16 h with monitoring by UPLC-MS. The resulting mixture was concentrated under reduced pressure and treated with water (10 mL). The resulting mixture was extracted with EtOAc (2×10 mL). The combined organic phases were washed with water (10 mL), dried (Na2SO4 anh), and concentrated under reduced pressure. The remaining material was purified using MPLC (Biotage Isolera Flash NH2 Snap 10 reverse phase column; 99% CH2Cl2/1% MeOH for 1 min., gradient to 90% CH2Cl2/10% MeOH over 10 min.; 90% CH2Cl2/10% MeOH over 5.2 min.) to give {1-[4-(3-phenyl-7-vinyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (77 mg, 85%),:

reactant | {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 0.19 mmol, 100 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)Br)C1C1=CC=CC=C1)=O | C28H28BrN3O2
reactant | K2CO3 | 0.19 mmol, 26.7 mg, 1.0 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 0.5 mL | O | H2O
reactant | DME | 1.5 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.2 mmol, 2.2 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | {1-[4-(3-phenyl-7-vinyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 77 mg, 85% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C=C)C1C1=CC=CC=C1)=O | C30H31N3O2
